*$
* TLE2027
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: TLE2027
* Date: 03MAY2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLOS192C - FEBRUARY 1997 - REVISED APRIL 2010
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.0
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos) 
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
***************************************************************************** 
.SUBCKT TLE2027 IN+ IN- OUT VCC VEE
******************************************************
.model R_NOISELESS RES(T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
******************************************************
V_ORn       36 VCLP -2M
V_ORp       37 VCLP 2M
XV_OS        40 29 VOS_DRIFT_TLE2027
V4          ZO_OUT_J1 OUT 0
V_GRp       53 MID 40
V_GRn       54 MID -40
V_ISCp      49 MID 35
V_ISCn      50 MID -35
V11         44 48 0
V12         43 47 0
VCM_MIN     67 VEE_B 2
VCM_MAX     68 VCC_B -2
I_Q         VCC VEE 3.8M
I_OS        ESDn MID 9N
I_B         29 MID 15N
XU4         OUT_J1_21 ESDp MID PSRR_CMRR_0_TLE2027
XU1 Zo_Cleft CL_CLAMP Zo_Cright MID ZO_OUT_J1 AOL_INN_J1 AOL_INP_J1 CLAMP 
+ CLAW_CLAMP VSENSE AOL_ZO_0_TLE2027 
XU3         OUT_J1_27 VEE_B MID PSRR_CMRR_1_TLE2027
XU5         VEE VCC ESDn ESDp ESD_0_TLE2027
XIn11       ESDn MID FEMT_0_0_TLE2027
XU2         OUT_J1 VCC_B MID PSRR_CMRR_2_TLE2027
C_DIFF      ESDp ESDn 4P  
XIn12       MID 29 FEMT_0_0_TLE2027
XGR_SRC     30 31 CLAMP MID VCCS_LIM_GR_0_0_TLE2027
XCL_SRC     32 33 CL_CLAMP MID VCCS_LIM_4_0_0_TLE2027
XCLAW_SRC   34 35 CLAW_CLAMP MID VCCS_LIM_3_0_0_TLE2027
XCLAWp      VIMON MID 38 VCC_B VCCS_LIM_CLAW+_0_0_TLE2027
XCLAWn      MID VIMON VEE_B 39 VCCS_LIM_CLAW-_0_0_TLE2027
Xe_n        29 ESDp VNSE_0_0_TLE2027
H2          41 MID V11 -1
H3          42 MID V12 1
S1          Zo_Cleft Zo_Cright SW_OL MID  S_VSWITCH_1
S7          VEE OUT VEE OUT  S_VSWITCH_2
S6          OUT VCC OUT VCC  S_VSWITCH_2
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_3
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_3
C_CMn       ESDn MID 8P  
C_CMp       MID ESDp 8P  
C28         45 MID 1P  
R77         42 45 R_NOISELESS 100 
C27         46 MID 1P  
R76         41 46 R_NOISELESS 100 
R75         MID 47 R_NOISELESS 1 
GVCCS8      47 MID 37 MID  -1
R74         48 MID R_NOISELESS 1 
GVCCS7      48 MID 36 MID  -1
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_0_TLE2027
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_0_TLE2027
XCL_AMP     49 50 VIMON MID 51 52 CLAMP_AMP_LO_0_TLE2027_0_TLE2027
XGR_AMP     53 54 55 MID 56 57 CLAMP_AMP_HI_0_0_TLE2027
R39         53 MID R_NOISELESS 1T 
R37         54 MID R_NOISELESS 1T 
R42         VSENSE 55 R_NOISELESS 1M 
C19         55 MID 1F  
R38         56 MID R_NOISELESS 1 
R36         MID 57 R_NOISELESS 1 
R40         56 30 R_NOISELESS 1M 
R41         57 31 R_NOISELESS 1M 
C17         30 MID 1F  
C18         MID 31 1F  
R21         51 MID R_NOISELESS 1 
R20         MID 52 R_NOISELESS 1 
R29         51 32 R_NOISELESS 1M 
R30         52 33 R_NOISELESS 1M 
C9          32 MID 1F  
C8          MID 33 1F  
R22         49 MID R_NOISELESS 1T 
R19         MID 50 R_NOISELESS 1T 
R12         38 VCC_B R_NOISELESS 1K 
R16         38 58 R_NOISELESS 1M 
R13         VEE_B 39 R_NOISELESS 1K 
R17         59 39 R_NOISELESS 1M 
C6          59 MID 1F  
C5          MID 58 1F  
G2          VCC_CLP MID 58 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 59 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 60 61 CLAMP_AMP_LO_0_TLE2027
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         60 MID R_NOISELESS 1 
R24         MID 61 R_NOISELESS 1 
R27         60 34 R_NOISELESS 1M 
R28         61 35 R_NOISELESS 1M 
C11         34 MID 1F  
C10         MID 35 1F  
C12         SW_OL MID 100P  
R32         62 SW_OL R_NOISELESS 100 
R31         62 MID R_NOISELESS 1 
XOL_SENSE   MID 62 46 45 OL_SENSE_0_TLE2027
H1          63 MID V4 1K
R11         MID 64 R_NOISELESS 1T 
R18         64 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N  
E2          64 MID OUT MID  1
C13         VIMON MID 1N  
R33         63 VIMON R_NOISELESS 100 
R10         MID 63 R_NOISELESS 1T 
R47         65 VCLP R_NOISELESS 100 
C24         VCLP MID 100P  
E4          65 MID CL_CLAMP MID  1
C4          AOL_INP_J1 MID 1F  
R9          AOL_INP_J1 66 R_NOISELESS 1M 
R7          MID 67 R_NOISELESS 1T 
R6          68 MID R_NOISELESS 1T 
R8          MID 66 R_NOISELESS 1 
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0_0_TLE2027
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          71 VEE_B R_NOISELESS 1M 
C3          71 0 1F  
R60         70 71 R_NOISELESS 1MEG 
C1          70 0 1  
R3          70 0 R_NOISELESS 1T 
R59         72 70 R_NOISELESS 1MEG 
C2          72 0 1F  
R4          VCC_B 72 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K 
G1          69 73 OUT_J1 OUT_J1_27  -1M
R2          AOL_INN_J1 ESDn R_NOISELESS 1M 
R1          73 74 R_NOISELESS 1M 
R_CMR       40 74 R_NOISELESS 1K 
G5          74 40 OUT_J1_21 MID  -1M
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
.ENDS TLE2027
*
.SUBCKT PSRR_CMRR_0_TLE2027 OUT IN MID
G_2         OUT MID 75 MID  -625
R74         MID OUT R_NOISELESS 1 
R2a         MID 76 R_NOISELESS 28.1911527K 
C1a         76 77 94.119P 
R48         77 76 R_NOISELESS 100MEG 
G_1         77 MID IN MID  -1M
Rsrc        MID 77 R_NOISELESS 1 
R2b         MID 75 R_NOISELESS 160.2564103K 
C2a         75 78 19.894F 
R73         78 75 R_NOISELESS 100MEG 
GVCCS7      78 MID 76 MID  -1
R49         MID 78 R_NOISELESS 1 
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
.ENDS 
*
.SUBCKT VOS_DRIFT_TLE2027 VOS+ VOS-
.PARAM DC = 18.107U
.PARAM POL = 1
.PARAM DRIFT = 0.4E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
* 
.SUBCKT AOL_ZO_0_TLE2027 ZO_CLEFT CL_CLAMP ZO_CRIGHT MID ZO_OUT AOL_INN AOL_INP CLAMP 
+ CLAW_CLAMP VSENSE 
C3_A12      81 82 2.136P  
R6_A12      82 MID R_NOISELESS 9.162K 
R5_A12      82 81 R_NOISELESS 10K 
R4_A12      81 MID R_NOISELESS 1 
GVCCS3_A12  81 MID 83 MID  -2.092
C2_A11      83 MID 3.183F  
R3_A11      MID 83 R_NOISELESS 1MEG 
GVCCS3_A11  83 MID 84 MID  -1U
C2_A10      84 MID 3.183F  
R3_A10      MID 84 R_NOISELESS 1MEG 
GVCCS3_A10  84 MID 85 MID  -1U
C2_A9       85 MID  3.36600000000000E-0016  
R3_A9       MID 85 R_NOISELESS 1MEG 
GVCCS3_A9   85 MID 86 MID  -1U
C2_A8       86 MID  3.36600000000000E-0016  
R3_A8       MID 86 R_NOISELESS 1MEG 
GVCCS3_A8   86 MID 87 MID  -1U
C2_A7       87 MID  7.36600000000000E-0016  
R3_A7       MID 87 R_NOISELESS 1MEG 
GVCCS3_A7   87 MID 88 MID  -1U
C2_A6       88 MID  7.36600000000000E-0016  
R3_A6       MID 88 R_NOISELESS 1MEG 
GVCCS3_A6   88 MID 89 MID  -1U
C2_A4       90 MID  6.30500000000000E-0016  
C2_A5       89 MID  7.36600000000000E-0016  
GVCCS3_A5   89 MID 90 MID  -1U
R3_A5       MID 89 R_NOISELESS 1MEG 
GVCCS3_A4   90 MID 91 MID  -1U
R3_A4       MID 90 R_NOISELESS 1MEG 
C2_A3       91 MID  5.30500000000000E-0016  
R3_A3       MID 91 R_NOISELESS 1MEG 
GVCCS3_A3   91 MID out2 MID  -1U
C2_A2       out2 MID  5.30500000000000E-0016  
R3_A2       MID out2 R_NOISELESS 1MEG 
GVCCS3_A2   out2 MID VSENSE MID  -1U
GVCCS1_3    93 MID 92 MID  -1.6086
R11_4       94 MID R_NOISELESS 3.8008 
C4_4        94 93 79.577F  
R10_4       94 93 R_NOISELESS 10K 
R1_4        93 MID R_NOISELESS 1 
C1_2        95 96 15.915U  
R2_2        96 MID R_NOISELESS 11.2346927K 
R2_2_2      96 95 R_NOISELESS 10K 
R1_2        95 MID R_NOISELESS 1 
GVCCS1_2    97 MID 96 MID  -1.8901
GVCCS4_CL   CL_CLAMP MID CLAW_CLAMP MID  -1M
R9_4        98 MID 1 
XVCCS_LIM_ZO 94 MID MID 98 VCCS_LIM_ZO_0_0_TLE2027
R2_3        92 MID R_NOISELESS 16.4318182K 
C1_3        92 97 171.21P  
R1_3        92 97 R_NOISELESS 10K 
R1_3_2      97 MID R_NOISELESS 1 
GVCCS1_1    95 MID ZO_CRIGHT MID  -1.9693
C1_1        ZO_CLEFT ZO_CRIGHT 9.4046U  
R2_1        ZO_CRIGHT MID R_NOISELESS 10.3166496K 
R1_1        ZO_CRIGHT ZO_CLEFT R_NOISELESS 10K 
Rdummy      MID ZO_OUT R_NOISELESS 1K 
Rx          ZO_OUT 98 R_NOISELESS 10K 
Rdc_1       ZO_CLEFT MID R_NOISELESS 1 
G_Aol_Zo    ZO_CLEFT MID CL_CLAMP ZO_OUT  -89.0549
XVCCS_LIM_2 4_A0 MID MID CLAMP VCCS_LIM_2_0_0_TLE2027
C1_A0       CLAMP MID 400N  
R4_A0       MID CLAMP R_NOISELESS 1MEG 
R3_A0       MID 4_A0 R_NOISELESS 1MEG 
XVCCS_LIM_1 AOL_INP AOL_INN MID 4_A0 VCCS_LIM_1_0_TLE2027
R4_CL       MID CL_CLAMP R_NOISELESS 1K 
R4_CC       MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS4_CC   CLAW_CLAMP MID 82 MID  -1M
R4_VS       MID VSENSE R_NOISELESS 1K 
GVCCS4_VS   VSENSE MID CLAMP MID  -1M
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
.ENDS
*
.SUBCKT PSRR_CMRR_1_TLE2027 OUT IN MID
R80         MID OUT R_NOISELESS 8.667 
C27         OUT 100 1.224N  
R79         100 OUT R_NOISELESS 100MEG 
GVCCS8      100 MID IN MID  -728M
R78         MID 100 R_NOISELESS 1 
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
.ENDS
*
.SUBCKT ESD_0_TLE2027 VEE VCC ESDn ESDp
SW5         ESDp ESDn ESDp ESDn  S_VSWITCH_1
SW6         ESDn ESDp ESDn ESDp  S_VSWITCH_2
SW1         VEE ESDp VEE ESDp  S_VSWITCH_3
SW3         VEE ESDn VEE ESDn  S_VSWITCH_4
SW4         ESDn VCC ESDn VCC  S_VSWITCH_5
SW2         ESDp VCC ESDp VCC  S_VSWITCH_6
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=650M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=650M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_5 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_6 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.ENDS
*
.SUBCKT PSRR_CMRR_2_TLE2027 OUT IN MID
R80         MID OUT R_NOISELESS 10 
C27         OUT 107 3.183N  
R79         107 OUT R_NOISELESS 100MEG 
GVCCS8      107 MID IN MID  -631M
R78         MID 107 R_NOISELESS 1 
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
.ENDS
* 
.SUBCKT FEMT_0_0_TLE2027   1 2
.PARAM FLWF=10
.PARAM NLFF=10000
.PARAM NVRF=800
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*
.SUBCKT VCCS_LIM_GR_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 5E1
.PARAM INEG = -5E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_4_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 2E1
.PARAM INEG = -2E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_3_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 1E1
.PARAM INEG = -1E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW+_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0.0018)
+(11.6667, 0.001902)
+(23.3333, 0.0022222)
+(31.1111, 0.0027407)
+(31.5, 0.0027667)
+(32.2778, 0.0028185)
+(33.0556, 0.0028704)
+(33.8333, 0.0029222)
+(34.6111, 0.0029741)
+(35, 0.003)
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW-_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0.0015)
+(11.6667, 0.0016648)
+(23.3333, 0.0021248)
+(31.1111, 0.0027083)
+(31.5, 0.0027374)
+(32.2778, 0.0027958)
+(33.0556, 0.0028541)
+(33.8333, 0.0029125)
+(34.6111, 0.0029708)
+(35, 0.003)
.ENDS
* 
.SUBCKT VNSE_0_0_TLE2027   1 2
.PARAM FLW=1.3
.PARAM NLF=9.9
.PARAM NVR=2.5
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
* 
.SUBCKT VCCS_LIMIT_IQ_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_TLE2027_0_TLE2027   VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_HI_0_0_TLE2027   VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_TLE2027  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT OL_SENSE_0_TLE2027  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
* 
.SUBCKT VCCS_EXT_LIM_0_0_TLE2027   VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
* 
.SUBCKT VCCS_LIM_ZO_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 2632.0526
.PARAM IPOS = 1000E2
.PARAM INEG = -1000E2
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_2_0_0_TLE2027   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.23
.PARAM IPOS = 1210.68E-3
.PARAM INEG = -1210.68E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_1_0_TLE2027  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*
